US05141930
To a solution of 5.0 g of 5-(4-chlorobutyl)-5,6,7,8-tetrahydro-2-methyl-4H-thieno[3,2-c]azepin-4-one in 60 ml of acetic acid was added 1.9 ml of bromine at 60° C. and stirred for 20 minutes. After cooling, to the mixture was added an aqueous saturated sodium thiosulfate solution and the mixture was neutralized with potassium carbonate, and then extracted with ethyl acetate. The extract was washed with water, dried and concentrated under reduced pressure. The resulting crude crystals were recrystallized from a mixed solvent of isopropyl alcohol and hexane to give 2.3 g of 3-bromo-5-(4-chlorobutyl)-5,6,7,8-tetrahydro-2-methyl-4H-thieno[3,2-c]azepin-4-one as pale yellow crystals, melting at 78°-80° C.

reactant | 5-(4-chlorobutyl)-5,6,7,8-tetrahydro-2-methyl-4H-thieno[3,2-c]azepin-4-one | 5.0 g | ClCCCCN1C(C2=C(CCC1)SC(=C2)C)=O | C13H18ClNOS
reactant | bromine | 1.9 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 3-bromo-5-(4-chlorobutyl)-5,6,7,8-tetrahydro-2-methyl-4H-thieno[3,2-c]azepin-4-one | 2.3 g | BrC1=C(SC2=C1C(N(CCC2)CCCCCl)=O)C | C13H17BrClNOS
